US07714126B2
Preparation of N2-[cis-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-pyridine-2,5-diamine
To a 20 mL vial containing cis-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentylamine, prepared according to literature reference (see Chen, et al US 2004/0204427 A1), (580 mg, 2.69 mmol) was added DMF (10 mL), 2-chloro-5-nitro-pyridine (428 mg, 2.69 mmol), and TEA (1.5 mL). The vessel was purged with Ar, sealed, heated to 75° C. for 4.5 hr, cooled to room temperature and allowed to stir over the weekend (60 hr). The reaction mixture was heated again at 75° C. for an additional 6 hr and then allowed to cool to RT overnight (18 hr). The reaction mixture was concentrated and redissolved in DMF (10 mL). 2 eq of K2CO3 was added (744 mg) and heated to 70° C. for 1 hr. The reaction mixture was concentrated, supported on silica gel, and purified by flash chromatography using an Analogix with a 80 g Redisep silica gel column at 60 mL/min with increasing concentrations of Et2O in hexane (0-5 min: 0%, 5-25 min: 0-20%, 25-40 min: 30%, 40-65 min: 30-100%). The appropriate fractions were collected and dried producing a clear oil, 490.8, 54.0% (LCMS 4.23 min, 338 (M+H), calcd. C16H27N3O3Si (m/e) 337, 50-100% ACN in H2O/HCOOH, C18, APCI). The nitropyridyl compound was transferred to a PARR vessel with MeOH (10 mL), Pd/C (10%) was added and the vessel was pressurized with H2 at 54 psi. After 3 hr the reaction mixture was filtered through a bed of celite and concentrated to dryness twice from DCM. The purple black material was used immediately for amide coupling (LCMS 2.94 min, 308 (M+H), calcd. C16H27N3O3Si (m/e) 307, 10-100% ACN in H2O/HCOOH 0.3%, C18, APCI).

reactant | cis-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentylamine | C(C)(C)(C)[Si](O[C@H]1C[C@H](CC1)N)(C)C | C11H25NOSi
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 2-chloro-5-nitro-pyridine | 2.69 mmol, 428 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | K2CO3 | 2 eq | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd/C | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | N2-[cis-3-(tert-butyl-dimethyl-silanyloxy)-cyclopentyl]-pyridine-2,5-diamine | C(C)(C)(C)[Si](O[C@H]1C[C@H](CC1)NC1=NC=C(C=C1)N)(C)C | C16H29N3OSi
